US04554013
A mixture of 24.8 g (0.10 mol) of N-(1-carbamoyl-1,2-dimethylpropyl)-p-toluamide in 263 mL of a 2N sodium hydroxide solution (0.50 mol NaOH) is heated with 100 mL p-dioxane and heated on a stream bath for 72 hours. The p-dioxane is removed in vacuo and the remaining aqueous solution is cooled to 5°-10° C. After carefully acidifying to pH 3-4 with concentrated sulfuric acid, the reaction mixture is extracted with a total of 750 mL methylene chloride. The organic phase is washed with 200 mL of a saturated sodium chloride solution, dried over magnesium sulfate and evaporated to dryness in vacuo to give a yellow solid residue, weighing 22.1 g. The nmr spectrum is consistent with the desired structure. This compound can be recrystallized from acetonitrile to give analytically pure 4-isopropyl-4-methyl-2-p-tolyl-2-imidazolin-5-one mp 151°-154° C.

reactant | N-(1-carbamoyl-1,2-dimethylpropyl)-p-toluamide | 0.10 mol, 24.8 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=CC=C(C=C1)C | C14H20N2O2
reactant | sodium hydroxide | 0.50 mol, 2N | [OH-].[Na+]
solvent | p-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-isopropyl-4-methyl-2-p-tolyl-2-imidazolin-5-one | C(C)(C)C1(N=C(NC1=O)C1=CC=C(C=C1)C)C | C14H18N2O
